US04647566
The starting material is prepared as follows: Ethyl 6-benzyloxycarbonyl-4-hydroxy-5,6,7,8-tetrahydro[1,6]naphthyridine-3-carboxylate Example 1i) is hydrogenated with palladium on carbon as the catalyst in glacial acetic acid to obtain ethyl 4-hydroxy-5,6,7,8-tetrahydro[1,6]naphthyridine-3-carboxylate, which is treated with benzyl bromide in a mixture of triethylamine and DMF at 60° for 48 hr to obtain ethyl 6-benzyl-4-hydroxy-5,6,7,8-tetrahydro[1,6]naphthyridine-3-carboxylate. Treatment of this material with an excess of phosphorous oxychloride at reflux for 5 hr affords the required ethyl 6-benzyl-4-chloro-5,6,7,8-tetrahydro[1,6]naphthyridine-3-carboxylate.

reactant | Ethyl 6-benzyloxycarbonyl-4-hydroxy-5,6,7,8-tetrahydro[1,6]naphthyridine-3-carboxylate | C(C1=CC=CC=C1)OC(=O)N1CC=2C(=C(C=NC2CC1)C(=O)OCC)O | C19H20N2O5
catalyst | palladium on carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 4-hydroxy-5,6,7,8-tetrahydro[1,6]naphthyridine-3-carboxylate | OC1=C(C=NC=2CCNCC12)C(=O)OCC | C11H14N2O3
